US09326973B2
60% NaH (48.5 mg, 1.212 mmol) was added to a cold (−20° C.) solution of ethyl 3,3-difluoro-2-hydroxy-2-methylpent-4-enoate (214 mg, 1.102 mmol) in DMF (2 mL) and the mixture was allowed to warm to rt (˜30 min) and then 3-bromoprop-1-ene (0.113 mL, 1.323 mmol) was added. The mixture was stirred at rt overnight, diluted with ether (20 mL) and washed with water, brine and dried (MgSO4). The crude product was purified by silica gel FCC (2:1 DCM-hexanes) to afford ethyl 2-(allyloxy)-3,3-difluoro-2-methylpent-4-enoate as a clear oil.

reactant | NaH | 1.212 mmol, 48.5 mg | [H-].[Na+]
reactant | ethyl 3,3-difluoro-2-hydroxy-2-methylpent-4-enoate | 1.102 mmol, 214 mg | FC(C(C(=O)OCC)(C)O)(C=C)F | C8H12F2O3
reactant | 3-bromoprop-1-ene | 1.323 mmol, 0.113 mL | BrCC=C | C3H5Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | ethyl 2-(allyloxy)-3,3-difluoro-2-methylpent-4-enoate | C(C=C)OC(C(=O)OCC)(C(C=C)(F)F)C | C11H16F2O3
